US05236931
4-Amino-5-chloro-2-[(2-methylthiazol-4-yl)methoxy]benzoic acid
A suspension of 60% sodium hydride/oil dispersion (0.5 g, 12.5 mmoles) in anhydrous dimethylformamide (20 ml) under nitrogen was treated with methyl 4-amino-5-chloro-2-hydroxybenzoate (2.02 g, 10 mmoles), stirred for 30 minutes, then treated with 4-chloromethyl-2-methylthiazole (1.85 g, 12.5 mmoles). The mixture was heated to 95°±5° C. for 1.5 hours, then cooled and added to water (150 ml). The aqueous mixture was extracted with ether (2×100 ml), and the combined ethereal solution was dried (MgSO4), concentrated in vacuo, and taken up in 95% ethanol (20 ml). Water (10 ml) and 50% sodium hydroxide (10 ml) were added, and the mixture was refluxed for one hour, cooled in on ice, and concentrated in vacuo to remove most of the ethanol. Water was added to a total volume of 100 ml, and the aqueous solution was extracted with ether (2×50 ml), cooled in an ice bath, and adjusted to pH 4 with concentrated hydrochloric acid (16 ml). A resultant precipitate was filtered, washed with water, air dried, and recrystallized from 95% ethanol to yield 1.96 g (64%) of tan crystals, mp 188°-189° C.

reactant | sodium hydride | [H-].[Na+]
reactant | methyl 4-amino-5-chloro-2-hydroxybenzoate | 10 mmoles, 2.02 g | NC1=CC(=C(C(=O)OC)C=C1Cl)O | C8H8ClNO3
reactant | 4-chloromethyl-2-methylthiazole | 12.5 mmoles, 1.85 g | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | water | 150 ml | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-Amino-5-chloro-2-[(2-methylthiazol-4-yl)methoxy]benzoic acid | 1.96 g, 64% | NC1=CC(=C(C(=O)O)C=C1Cl)OCC=1N=C(SC1)C | C12H11ClN2O3S
